US07544702B2
A solution of 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl) -phenylsulfanyl]-isonicotinic acid pentyl ester (217 mg, 0.32 mmol) and lithium hydroxide monohydrate (54 mg, 1.3 mmol) in THF (15 ml) and water (15 ml) was stirred at 30° C. overnight. The reaction was diluted with water (25 ml), acidified to pH 1 with 1N HCl and extracted with ethyl acetate (2×30 ml). The combined extracts were dried (MgSO4) and concentrated under reduced pressure to give 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinic acid as a yellow solid (173 mg, 90%). 1H NMR (CDCl3): 8.06 (1H, d, Ar); 7.96 (1H, s, Ar); 7.82 (1H, s, py); 7.67 (3H, m, py and Ar); 7.39 (3H, m, Ar); 2.94 (4H, m, 2×CH2N pip); 1.56 (4H, m, 2×CH2 pip); 1.39 (2H, m, CH2 pip).

reactant | 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl) -phenylsulfanyl]-isonicotinic acid pentyl ester | 0.32 mmol, 217 mg | C(CCCC)OC(C1=CC(=NC=C1SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)=O | C28H31Cl2N3O6S3
reactant | lithium hydroxide monohydrate | 1.3 mmol, 54 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 2-(2,4-dichloro-benzenesulfonylamino)-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinic acid | 173 mg, 90% | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC=1C=C(C(=O)O)C(=CN1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C23H21Cl2N3O6S3
